Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: Hypotension 
Reason for MICU transfer: Refractory hypotension, severe anemia
 
Major Surgical or Invasive Procedure:
Intubation: ___
Sigmoidoscopy ___
EGD ___
Tunneled hemodialysis line placement ___
Colonoscopy ___
 
History of Present Illness:
___ with a PMH of EtOH abuse, liver disease, hypothyroidism, and 
hypertension who presents with hypotension and severe anemia.

The patient was seen at her PCPs office today for a a few days 
of fatigue and weakness. There she was found to be hypotensive 
to the 64/34, pulse 93. She was sent to ___ by ambulance. She 
has also been having diarrhea for the past few days with normal 
stool color. She denies CP, SOB, Abd pain, N/V, dysuria. No hx 
of GIB. No previous EGDs or colonoscopies.

Of note, the patient had a recent admission to ___ ___ 
for dizziness and hypotension that responded to IVF. At that 
time her H/H was 9.9/29, cr 1.3. 
 
In the ED, initial vitals: 97.8 90 70/42 18 100% RA.
She was hypothermic in the ED to 34 degrees C after getting 3L 
IVF; was given a bear hugger. 
Labs were notable for: H/H 4.3/14.4 with MCV 107, PTT 140 with 
INR 1.1, transaminitis with AST 168 and ALT 89, Tbili 0.7, alb 
2.3, creatinine 2.9->2.5 (baseline 0.9), bicarb 8->11, VBG 
7.25/33/40/15, lactate 2.1-> 1.5, neg UA.
Exam was significant for normal mentation and brown, guaiac 
negative stool.
CXR was without acute findings, and CTA abd/pelvis was without 
source of bleed, but showed hepatic steatosis, colitis versus 
portal colopathy, and heterogenous kidneys.
A cordis was placed in the R femoral vein for resuscitation.
The patient was given:  
___ 13:12 IVF 1000 mL NS 1000 mL 
___ 13:53 IVF 1000 mL NS 1000 mL 
___ 15:23 IVF 1000 mL NS 1000 mL 
___ 15:34 IV Piperacillin-Tazobactam 4.5 g  
___ 15:34 PO Acetaminophen 1000 mg 
___ 15:34 IV BOLUS Pantoprazole 80 mg 
___ 16:16 IVF 1000 mL NS 1000 mL  
___ 16:16 IV Vancomycin 1000 mg  
___ 16:30 IV DRIP Pantoprazole  Started 8 mg/hr 
4 units pRBCs.

On arrival to the MICU, the patient's vitals were 97.8 77 81/43 
18 99% on RA. She was persistently hypotensive to ___. She 
was mentating well. She was given a total of 4L IVF and started 
on levophed without blood pressure response. A-line was placed.  

 
Past Medical History:
___'S ENCEPHELOPATHY
ASTHMA  
TOBACCO DEPENDENCE  
ALCOHOL DEPENDENCE  
HYPOTHYROIDISM  
HYPERTENSION  
S/P BARIATRIC SURGERY  
H/O ALCOHOLIC HEPATITIS 
GOUT 
 
Social History:
___
Family History:
Family history significant for T2DM, HTN, hypothyroidism and 
asthma.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
Vitals:  97.8 90 70/42 18 100% RA. 
GENERAL: Alert, oriented, no acute distress.  
HEENT: PERRL, MMM 
NECK: supple, JVP not elevated  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, mildly distended, no tenderness to palpation.   
EXT: Warm, no edema 
LINES: right femoral CVL, right PIV, foley in place

DISCHARGE PHYSICAL EXAM:  
========================
VS 98.3 124/84 66 18 100%RA FSBG 67 (getting juice)
GENERAL: NAD, ill appearing, awake and interactive
HEENT: AT/NC,  MMM, NGT in place
Chest: R anterior chest wall improved tenderness at tunneled HD 
site. without erythema or fluctance.
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTA in anterior and axillary fields 
ABDOMEN: scaphoid. +BS, minimal tenderness diffusely
EXTREMITIES: RLE edema present 1+ to around mid thigh 
asymmetrically w/ LLE with no edema. 
SKIN: warm, DP 2+ b/l
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:40PM BLOOD WBC-7.5# RBC-1.35*# Hgb-4.3*# Hct-14.4*# 
MCV-107*# MCH-31.9# MCHC-29.9* RDW-19.8* RDWSD-74.3* Plt ___
___ 01:40PM BLOOD Neuts-60.3 ___ Monos-11.2 
Eos-0.8* Baso-0.0 Im ___ AbsNeut-4.54 AbsLymp-1.99 
AbsMono-0.84* AbsEos-0.06 AbsBaso-0.00*
___ 01:40PM BLOOD ___ PTT-140.0* ___
___ 02:39PM BLOOD ___ 01:40PM BLOOD Glucose-123* UreaN-62* Creat-2.9*# Na-140 
K-5.4* Cl-123* HCO3-8* AnGap-14
___ 01:40PM BLOOD ALT-89* AST-168* AlkPhos-259* TotBili-0.7
___ 07:30PM BLOOD CK-MB-1 cTropnT-<0.01
___ 02:39PM BLOOD Albumin-2.1*
___ 07:14PM BLOOD Calcium-6.4* Phos-3.7# Mg-1.2*
___ 11:51PM BLOOD calTIBC-90* VitB12-GREATER TH 
Folate-GREATER TH ___ Ferritn-1085* TRF-69*
___ 07:30PM BLOOD Cortsol-7.4
___ 07:30PM BLOOD ASA-NEG Acetmnp-9* Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 01:43PM BLOOD ___ pO2-40* pCO2-33* pH-7.25* 
calTCO2-15* Base XS--11
___ 01:43PM BLOOD Lactate-2.1*

PERTINENT LABS:
===============
Lactate trend:
___ 02:44PM BLOOD Lactate-1.5
___ 07:48PM BLOOD Lactate-3.4*
___ 12:10AM BLOOD Lactate-3.9*
___ 12:49AM BLOOD Lactate-3.6*
___ 12:15PM BLOOD Lactate-6.7*
___ 05:30PM BLOOD Lactate-7.2*
___ 09:55PM BLOOD Glucose-187* Lactate-5.8* Na-133 K-3.3 
Cl-112*
___ 01:49AM BLOOD Lactate-4.9*
___ 11:35AM BLOOD Lactate-3.4*
___ 03:54AM BLOOD Lactate-2.5*
___ 06:27PM BLOOD Lactate-1.7

Troponin trend:
___ 07:30PM BLOOD CK-MB-1 cTropnT-<0.01
___ 05:51AM BLOOD CK-MB-1 cTropnT-<0.01
___ 08:45AM BLOOD CK-MB-1 cTropnT-0.04*
___ 06:41PM BLOOD CK-MB-2 cTropnT-0.07*
___ 12:04AM BLOOD CK-MB-2 cTropnT-0.09*
___ 03:38AM BLOOD cTropnT-0.05*
___ 01:36AM BLOOD cTropnT-0.03*
___ 07:19AM BLOOD CK-MB-3 cTropnT-0.02*
BNP:
___ 12:04AM BLOOD ___

___ 05:32AM BLOOD Ret Aut-6.0* Abs Ret-0.16*
___ 04:15AM BLOOD ALT-19 AST-32 LD(LDH)-201 AlkPhos-217* 
TotBili-1.0
___ 04:15AM BLOOD calTIBC-104* VitB12-GREATER TH Hapto-8* 
TRF-80*
___ 03:06AM BLOOD Ferritn-2632*
___ 11:10AM BLOOD %HbA1c-5.6 eAG-114
___ 02:30PM BLOOD Triglyc-59
___ 05:08PM BLOOD Osmolal-308
___ 07:30PM BLOOD TSH-0.82
___ 05:25AM BLOOD Cortsol-13.8
___ 05:44AM BLOOD HAV Ab-POSITIVE IgM HAV-NEGATIVE
___ 03:29PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE
___ 02:39PM BLOOD ANCA-NEGATIVE B
___ 05:41AM BLOOD AMA-NEGATIVE
___ 05:41AM BLOOD ___
___ 05:45AM BLOOD C3-88* C4-27
___ 07:30PM BLOOD HIV Ab-Negative
___ 05:27PM BLOOD ANTI-PLATELET ANTIBODY-Test
Test                            Flag  Result        Unit       
Reference Value
----                            ----  ------        ----       
---------------
Platelet Ab, S                        Positive                 
Not Applicable
   Comment
      Antibody reacts with glycoprotein to HLA Class I, probable
      alloimmunization due to pregnancy/transplant/transfusion. 
      
___ 12:00AM BLOOD COPPER (SERUM)-Test
 Test                          Result              Reference 
Range/Units
COPPER                        91                  70-175 mcg/dL
       
___ 12:00AM BLOOD ZINC-Test   
 Test                          Result              Reference 
Range/Units
ZINC                          48  L               60-130 mcg/dL
    
___ 11:55PM BLOOD VITAMIN B1-WHOLE BLOOD-Test 
 Test                          Result              Reference 
Range/Units
VITAMIN B1 (THIAMINE),        1118  H             78-185 nmol/L
BLOOD, LC/MS/MS 
      
___ 11:55PM BLOOD VITAMIN C-Test   
Test                          Result              Reference 
Range/Units
VITAMIN C, LC/MS/MS           0.2                 0.2-1.5 mg/dL
   
___ 09:10PM BLOOD SELENIUM-Test      
Test                          Result              Reference 
Range/Units
SELENIUM                      29  L               63-160 mcg/L

___ 09:10PM BLOOD COPPER (SERUM)-Test    
Test                          Result              Reference 
Range/Units
COPPER                        34  L               70-175 mcg/dL  


___ 09:10PM BLOOD ZINC-Test    
  Test                          Result              Reference 
Range/Units
ZINC                          32  L               60-130 mcg/dL
ZINC 
  Test                          Result              Reference 
Range/Units
ZINC (repeat on ___      27  L               60-130 mcg/dL
 

___ 09:10PM BLOOD VITAMIN C-Test
Test                          Result              Reference 
Range/Units
VITAMIN C, LC/MS/MS           0.2                 0.2-1.5 mg/dL  
    
___ 09:10PM BLOOD CERULOPLASMIN-Test     
 Test                          Result              Reference 
Range/Units
CERULOPLASMIN                 14  L               ___ mg/dL
  
___ 06:35PM BLOOD VITAMIN B1-WHOLE BLOOD-Test   
Test                          Result              Reference 
Range/Units
VITAMIN B1 (THIAMINE),        >1200  H            78-185 nmol/L
BLOOD, LC/MS/MS                                      
___ 01:17PM BLOOD HEPARIN DEPENDENT ANTIBODIES-TEST  
 TEST                        RESULTS           REFERENCE RANGE   
     UNITS
____________________        _______           _______________    
    _____
PF4 Heparin Antibody          .10               0.00 - 0.39     
     
___ 01:17PM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-Test
 Test                          Result              Reference 
Range/Units
SOURCE                        Whole Blood         
EBV DNA, QN PCR               <200                <200 copies/mL
       
___ 10:28AM BLOOD PARVOVIRUS B19 ANTIBODIES (IGG & 
IGM)-Test 
Test                          Result              Reference 
Range/Units
PARVOVIRUS B19 ANTIBODY       8.48  H             
(IGG)                                             
 
Reference Range
<0.9      Negative
0.9-1.1   Equivocal
>1.1      Positive
 
 
IgG persists for years and provides life-long immunity.
To diagnose current infection, consider Parvovirus
B19 DNA, PCR.
 
 
Test                          Result              Reference 
Range/Units
PARVOVIRUS B19 ANTIBODY       <0.9                
(IGM)                                             
 
Reference Range
<0.9      Negative
0.9-1.1   Equivocal
>1.1      Positive
 
 
Results from any one IgM assay should not be used as a
sole determinant of a current or recent infection.
Because IgM tests can yield false positive results and
low levels of IgM antibody may persist for months post
infection, reliance on a single test result could be
misleading. If an acute infection is suspected, consider
obtaining a new specimen and submit for both IgG and IgM
testing in two or more weeks. To diagnose current
infection, consider parvovirus B19 DNA,PCR.
      
___ 11:56AM BLOOD T4, FREE, DIRECT DIALYSIS-Test  
 Test                          Result              Reference 
Range/Units
T4, FREE, DIRECT DIALYSIS     3.3  H              0.8-2.7 ng/dL
     
Urine studies:
___ 09:33AM URINE Color-Yellow Appear-Cloudy Sp ___
___ 09:33AM URINE Blood-MOD Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 10:39PM URINE RBC-151* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-2 TransE-1
___ 01:20PM URINE AmorphX-FEW
___ 09:33AM URINE Hours-RANDOM UreaN-332 Creat-101 Na-41 
K-43 Cl-12 TotProt-171 Prot/Cr-1.7* Albumin-36.1 Alb/Cre-357.4*

DISCHARGE LABS:
===============

___ 04:57AM BLOOD WBC-9.6 RBC-2.84* Hgb-9.0* Hct-27.5* 
MCV-97 MCH-31.7 MCHC-32.7 RDW-19.0* RDWSD-67.4* Plt ___
___ 12:30PM BLOOD ___ PTT-56.4* ___
___ 04:57AM BLOOD Glucose-61* UreaN-33* Creat-2.9*# Na-137 
K-4.6 Cl-100 HCO3-24 AnGap-18
___ 05:45AM BLOOD Glucose-75 UreaN-59* Creat-4.1* Na-138 
K-5.4* Cl-106 HCO3-20* AnGap-17
___ 04:15AM BLOOD ALT-19 AST-32 LD(LDH)-201 AlkPhos-217* 
TotBili-1.0
___ 04:57AM BLOOD Calcium-8.7 Phos-5.8*# Mg-2.1
___ 04:15AM BLOOD calTIBC-104* VitB12-GREATER TH Hapto-8* 
TRF-80*
___ 03:06AM BLOOD Ferritn-2632*
___ 02:30PM BLOOD HBsAg-PND HBsAb-PND HBcAb-PND
___ 05:44AM BLOOD HAV Ab-POSITIVE IgM HAV-NEGATIVE
___ 03:29PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE
___ 07:30PM BLOOD HIV Ab-Negative
___ 02:30PM BLOOD HCV Ab-PND
___ 03:29PM BLOOD HCV Ab-NEGATIVE
___ 06:27AM BLOOD freeCa-1.17

MICROBIOLOGY:
=============
__________________________________________________________
___ 11:53 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 
__________________________________________________________
___ 1:29 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 9:07 am BLOOD CULTURE      Source: Line-hd line. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 9:07 am BLOOD CULTURE      Source: Line-aline 1 OF 2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 3:39 pm Mini-BAL

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      YEAST.    ~3000/ML. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 

   FUNGAL CULTURE (Preliminary): 
      YEAST. 

   NOCARDIA CULTURE (Preliminary):    NO NOCARDIA ISOLATED. 
__________________________________________________________
___ 1:39 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL LAVAGE. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      YEAST.    ~3000/ML. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

   FUNGAL CULTURE (Preliminary): 
      YEAST. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

Negative results:
___ URINE URINE CULTURE-FINAL INPATIENT 
___ Immunology (CMV) CMV Viral Load-FINAL 
INPATIENT 
___ SEROLOGY/BLOOD RAPID PLASMA REAGIN 
TEST-FINAL INPATIENT 
___ SWAB Chlamydia trachomatis, Nucleic Acid 
Probe, with Amplification-FINAL; NEISSERIA GONORRHOEAE (GC), 
NUCLEIC ACID PROBE, WITH AMPLIFICATION-FINAL INPATIENT 
___ URINE Chlamydia trachomatis, Nucleic Acid 
Probe, with Amplification-FINAL; NEISSERIA GONORRHOEAE (GC), 
NUCLEIC ACID PROBE, WITH AMPLIFICATION-FINAL INPATIENT 
___ STOOL FECAL CULTURE-FINAL; CAMPYLOBACTER 
CULTURE-FINAL; FECAL CULTURE - R/O VIBRIO-FINAL; FECAL CULTURE - 
R/O YERSINIA-FINAL; FECAL CULTURE - R/O E.COLI 0157:H7-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ STOOL C. difficile DNA amplification 
assay-FINAL INPATIENT 
___ MRSA SCREEN MRSA SCREEN-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD 
 **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 
___- urine cultures x2 
   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 ORGANISMS/ML.. 
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION
___ - blood cultures x2 - no growth

PERTINENT STUDIES:
==================
___ CXR:
FINDINGS:  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities.  
Chain sutures are noted in the left upper quadrant of the 
abdomen. 
IMPRESSION:  
No acute cardiopulmonary abnormality 

___ CT abd/pelvis:
IMPRESSION:  
1. No active extravasation of contrast to suggest active GI 
bleeding at this time. 
2. Profound hepatic steatosis.  Enlarged periportal lymph nodes 
with hazy 
mesentery and retroperitoneum likely reflect underlying liver 
disease. 
3.  Colonic and rectal wall thickening which may reflect colitis 
versus portal colopathy.
4. Heterogeneous appearance of the kidneys with possible 
striated nephrograms. Correlate with urinalysis to exclude 
pyelonephritis. 

___ TTE:
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF = 65%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
The mitral valve leaflets are mildly myxomatous. Frank mitral 
valve prolapse is not seen but cannot be excluded with 
certainty. An eccentric, posteriorly directed jet of moderate 
(2+) mitral regurgitation is seen. Due to the eccentric nature 
of the regurgitant jet, its severity may be significantly 
underestimated (Coanda effect). There is borderline pulmonary 
artery systolic hypertension. There is no pericardial effusion.  


___ ___
IMPRESSION:   
1. Occlusive thrombus of all right lower extremity deep veins 
from the common femoral vein down to the calf veins. 
2. Patent left lower extremity veins. 

___ ECHO
The left atrium is normal in size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. LV systolic function appears depressed (LVEF = 40%) 
secondary to hypokinesis of the basal two-thirds of the left 
ventricle. The apical one-third of the left ventricle is 
hyperdynamic. Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. The estimated pulmonary artery systolic 
pressure is normal. The pulmonary artery is not well visualized. 
There is no pericardial effusion. 
 Compared with the prior study (images reviewed) of ___, 
left ventricular systolic dysfunction is now present. Findings 
suggestive of stress cardiomyopathy with inverse Takotsubo 
pattern of left ventricular contractile dysfunction.  

___ CTH:
IMPRESSION: 
1. There is mild progression of global cerebral atrophy since 
the prior 
examination of ___, greater than would be expected 
for the 
patient's age. 
2. No intracranial hemorrhage or territorial infarct. 

___ LIVER US:
IMPRESSION:    
1.  Echogenic liver consistent with steatosis. Other forms of 
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination. 
2.  Trace ascites and small right pleural effusion. 

___ IVC filter placement:
FINDINGS:   
1. Patent normal sized, non-duplicated IVC with  no evidence of 
a IVC 
thrombus. A small circumaortic renal vein originating from the 
IVC just above the bifurcation was noted however is very small 
in caliber and likely of no clinical significance. 
2. Successful deployment of an infra-renal retrievable IVC 
filter. 
IMPRESSION:  
Successful deployment of an infra-renal removable IVC filter. 

___ ECHO:
Conclusions   
 The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is low normal (LVEF 50%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The pulmonary 
artery systolic pressure could not be determined. There is a 
trivial/physiologic pericardial effusion. 
 IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and low normal global biventricular systolic function. 
No valvular pathology or pathologic flow identified. Trivial 
pericardial effusion. 

___ Unilateral RLE veins 
IMPRESSION:    
Extensive deep venous thrombosis involving the wall of the right 
lower 
extremity veins, overall similar to ___, but now with 
perhaps minimal flow in the distal right SFV. 

___ Video oropharyngeal swallow study
Aspiration with thin liquid consistency.

___ Portable abdomen x-ray
Patient is post gastric bypass surgery.  The Dobbhoff tube ends 
in the 
proximal jejunum. 

___ Renal ultrasound
No evidence of hydronephrosis.  Increased renal echogenicity 
consistent with diffuse parenchymal renal disease.   
Small bilateral effusions and small to moderate volume ascites. 

___ - EGD
Duodenum was not examined. Small gastric pouch consistent with 
Roux en y anatomy the blind limb and jejunal limb were both 
visualized. No varices. Otherwise normal EGD to the jejunum.

 
Brief Hospital Course:
___ hx gastric bypass surgery, alcohol abuse complicated by 
Wernicke's encephalopathy, concern for autonomic insufficiency, 
presented originally with hypotension, anemia and academia. Her 
course in the MICU was complicated by severe nutritional 
deficiency, volume overload, renal failure, cardiomyopathy, 
hypoxemia and hypoxemic respiratory failure, and deep vein 
thrombosis.

# Hypotension:
# Cardiomyopathy: 
# Presumed alcoholic liver disease:
Patient was given 4u PRBCs in the ED prior to FICU admission; 
her Hgb was stable for days afterward, and there was low 
suspicion for active GIB initially in her MICU course. She was 
empirically antiobiosed for concern of sepsis, but no source was 
found, and these antibiotics were held until a series of 
presumed aspiration events that will be discussed below. Morning 
cortisol was within normal limits twice; TSH was also within 
normal limits. She underwent several echocardiograms to explain 
her persistent hypotension with pressor requirement that showed 
in sequence: mitral regurgitation with eccentric jet; inverse 
Takutsubo's cardiomyopathy; and then resolution of these issues. 
Of note, the resolution occurred after initiation of high-dose 
thiamine repletion, which may suggest an element of wet 
beriberbi from severe nutritional deficiency in the setting of 
gastric bypass and alcoholism. There was also strong suspicion 
of cirrhosis given her imaging and alcohol abuse history, for 
which she was started on midodrine. With these measures, she was 
successfully weaned from pressors. Unresolved at the time of her 
MICU discharge was a question of autonomic insufficiency raised 
in her last Discharge Summary of ___ where it was thought her 
alcohol abuse could be contributing to baseline systolic 
pressures in the ___. This in part resolved on the floor as the 
patient was weaned off midodrine and maintained systolic blood 
pressure in the 100s.

# Anemia: 
-Unexplained, possible GI source with lack of erythropoietin in 
the setting of subacute renal failure . Patient had decreasing 
pRBC transfusion requirements over the course of her stay, 
ultimately needing 1U pRBC every 4 days. She was evaluated by 
Hem/Onc who felt there was no evidence of significant hemolysis 
or malignancy and felt that there was an element of anemia of 
chronic inflammation, as well as decreased erythropoietin in the 
setting of subacute renal failure. She was evaluated by GI who 
found no source of bleed on sigmoidoscopy early in her course 
and no varices or bleeding on EGD. She had an episode of guaiac 
positive stool but had no significant bleeding on colonoscopy. 
Patient may benefit from outpatient capsule study if bleeding is 
ongoing.

# Thrombocytopenia: 
There was no evidence of active bleed on presentation (stool 
normal color, not tachycardic, no clinical or radiographic 
evidence of extravasation into a compartment). Surgery and GI 
were consulted early in her MICU course for concern of ischemic 
gut in the setting of rising lactate, but flexible sigmoidoscopy 
was negative for this and lactate resolved with fluid 
resuscitation. ___ Hematology consulted, and believe her 
anemia and thrombocytopenia are likely a combination of 
alcoholic bone marrow suppression, malnutrition and critical 
illness. She may benefit from a bone marrow biopsy when more 
stable; additionally, given her renal failure, she may have a 
developing EPO deficiency. She was transfused by ED prior to 
MICU admission and did not require further blood products until 
___ (gradually dropping Hct attributed to anemia of chronic 
illness/inflammation/underproduction; she held her Hct each time 
after transfusion).  

# Diarrhea:
Negative c. diff, improved over the course of the hospital stay. 
Possibly related to tube feeding formulas as this improved with 
changing to a higher fiber formula and with the addition of 
banana flakes. Recommend continued loperamide as needed and 
optimization of tube feeds in patient s/p gastric bypass.

# Renal Failure (Addressed Separately Below):
Presented with serum bicarbonate of 8 of unclear etiology. She 
manifested diarrhea in the early part of her ICU stay (C diff 
assay negative, thought related to either alcohol abuse or early 
course of antibiotics administered empirically for presumed 
sepsis, resolved); her renal function markers may also have been 
under-estimates of her true GFR given her nutritionally 
deficient state. Acidemia corrected with bicarbonate drip, but 
recurrence remains in a concern in the setting of her renal 
failure with poor UOP. CRRT was started in the setting of volume 
overload in the ICU as described above, though she was noted to 
have ATN by muddy brown casts in her urine as well as 
persistently poor UOP. At time of FICU discharge she is being 
trialed off CRRT, though with her poor UOP she may need to be 
initiated on standing dialysis. Upon transfer to the floor, her 
renal function did not improve and she remained oliguric. She 
was evaluated by nephrology who felt that ATN without renal 
recovery was the most likely diagnosis based on her urine 
sediment and history. A renal biopsy was considered, but 
nephrology felt that the risks of the biopsy on a patient 
already requiring heparin for DVT would outweigh the benefits 
with the suspicion of ATN being high already. Urine output 
remained low prior to discharge, and tunneled HD line was placed 
for longer-term access.

# Respiratory Failure:
Patient developed progressive hypoxemia from volume overload 
eventually requiring CRRT with resolution of the same. However, 
on ___ she had an unexplained hypoxemic respiratory episode 
with persistent SpO2 measurements in the ___ despite NRB and NC; 
she was intubated with ___ of continued O2 saturations in 
the ___ before resolution not attributable to any particular 
intervention (nebs, suction, etc). This first hypoxemic episode 
was attributed to aspiration though subsequent CXR and 
bronchoscopy were not impressive for evidence of the same. She 
was extubated within 24hrs, but then reintubated in the setting 
of a break in her CRRT line that caused acute hypotension from 
blood loss (trapped in the CRRT circuit) and then hypoxemia. 
After restoration of hemodynamic stability and passing her RSBI, 
she was again extubated, but re-intubated for nearly the same 
exact sequence of events that evening(break in the CRRT circuit 
due to equipment failure; this has been reported and is being 
investigated). She was finally extubated on ___ and remains 
off supplemental O2 at time of MICU discharge. Antibiotics were 
empirically started in the setting of possible aspiration with 
leukocytosis (that could have been a stress reaction to 
aspiration pneumonitis or intubations/exbuations); these will 
finish on ___. She completed her course of antibiotics and 
remained afebrile and without respiratory distress the rest of 
her hospitalization. 

# Alcohol Abuse:
Patient endorses heavy alcohol use. She was seen by social work 
who gave resources, though patient is not interested in 
counseling.

# Severe Nutritional Deficiency:
Nutritional deficiencies including zinc and selenium requiring 
significant repletion. Repeat testing of zinc showed continued 
need for repletion. Caloric needs and repletion addressed below.

# Severe malnutrition: likely contributor to pancytopenia 
resulting from bone marrow suppression. Required tube feeding 
tube feed which was continued at discharge in order to meet her 
caloric needs. She was initially found to aspirate thin liquids 
by a speech and swallow evaluation, however on reevaluation 
after receiving tube feeds for some time, she was able to 
tolerate a regular diet and thin liquids. Her caloric intake by 
mouth was not sufficient to decrease tube feeds.

# Hx Wernicke's Encephalopathy:
Patient had waxing/waning mental status for much of her early 
hospital course which was initially attributed to delirium; 
however, for history of Wernicke's she was started on high-dose 
thiamine that seemed to improve her mental status. Nutrition was 
consulted, and nutrition labs were sent that were all markedly 
low. She was supplemented through her TFs and will need to 
remain on standing thiamine.

# Deep Vein Thrombosis:
Patient arrived to MICU with L femoral CVL; shortly thereafter, 
asymmetric R > L lower extremity swelling was noticed for which 
___ was obtained - this showed extensive venous clot burden in 
the R lower extremity. IV heparin was started. Because of 
persistent thrombocytopenia, an IVC filter was placed, though 
because of her high clot risk IV heparin was continued. She 
should have interval follow-up of her DVTs after discharge, as 
well as scheduled follow-up with ___ for filter removal. She was 
maintained on a heparin drip and should be bridged to Coumadin 
to follow up with hematology/oncology as an outpatient.
 
# Concern for Gastrointestinal Bleed:
As described above, GI and Surgery were consulted early in her 
MICU stay for rising lactate and concern of gut ischemia in the 
setting of her hypotension; flexible sigmoidoscopy was 
unimpressive and lactate improved with pressors and IVF. Near 
the end of her FICU stay she had fresh blood coating a stool 
which raised concern for GIB; however, her Hct was stable, she 
was HD stable, and guaiacs of subsequent stools were negative 
prior to MICU discharge. She underwent evaluation by Hepatology 
and EGD which showed no varices, negative colonoscopy. Capsule 
study failed, but patient's H/H stabilized and hepatology felt 
the study could be done as an outpatient if necessary.

**Transitional:**

TRANSITIONAL ISSUES:
-Patient will need daily assessment for hemodialysis needs, EPO 
with HD given renal failure
-Reassess nutritional status and continued need for tube 
feeding, potential need for G-tube
-Daily electrolytes and every other day CBC to evaluate need for 
blood transfusion
-Patient on heparin gtt for DVT. Recommend bridge to coumadin
-Needs appointment with OBGYN for Mirena IUD removal. Pt states 
this was places at least ___ years ago.
-encourage smoking/alcohol cessation
-f/u for potential IVC filter removal in the future
-Outpatient hepatology f/u, consider outpatient capsule study
-Outpatient Hematology f/u with Dr. ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Lisinopril 2.5 mg PO DAILY 
3. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
4. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Cyanocobalamin 50 mcg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Multivitamins W/minerals 1 TAB PO BID 
4. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Heparin IV per Weight-Based Dosing Guidelines
Initial Bolus: 3900 units IVP
Initial Infusion Rate: 850 units/hr
Start: Today - ___, First Dose: 1600 
Target PTT: 60 - 100 seconds
7. Nephrocaps 1 CAP PO DAILY 
8. Warfarin 5 mg PO DAILY16 
first dose ___ 
9. sevelamer CARBONATE 800 mg PO TID W/MEALS 
10. LOPERamide 2 mg PO QID:PRN diarrhea 
11. Sarna Lotion 1 Appl TP PRN itching 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: acute oliguric renal failure, deep vein thrombosis, 
anemia, thrombocytopenia, hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___. You were hospitalized with low blood pressure 
and low blood counts. You were treated with blood transfusions, 
kidney replacement therapy, and antibiotics. You were found to 
have a blood clot in your leg and are being treated with blood 
thinning medications. Your platelets were low but these 
recovered. Your kidney function has not recovered prior to 
leaving the hospital and you will be discharged with a 
hemodialysis line. You were evaluated for GI bleeds, and these 
studies were reassuring. If you continue to bleed, you may 
benefit from a capsule study as an outpatient.

Best wishes,
Your ___ Care Team

 
Followup Instructions:
___